Transistor-level TIA private fixture
*==============================================================================
* Complete Differential Transimpedance Amplifier (transistor-level)
* LTspice / Ngspice 46 compatible flattened netlist
*==============================================================================
* External: vcc mc mgc oa inp inn
* Probes: finalp finaln gc agc vc1 vc1b vc2 vc2b tia_p tia_n
*         v1p v1n vga1p vga1n v2p v2n vga2p vga2n
*         bufinp bufinn outp outn pkdinp pkdinn detp detn pkd
* Cancel: M_CANCEL_P M_CANCEL_N
*==============================================================================

*----- Models (exact grading cards) -----
.model NMOS NMOS(VTO=.55 KP=220u LAMBDA=.02)
.model PMOS PMOS(VTO=-.55 KP=100u LAMBDA=.02)
.model QN   NPN(IS=1e-16 BF=200 VAF=100 IKF=50m RB=5 RC=1 RE=.2 CJE=2f CJC=1f TF=.45p TR=5p)
.model QP   PNP(IS=1e-16 BF=100 VAF=60 IKF=20m RB=8 RC=1 RE=.3 CJE=3f CJC=1.5f TF=.7p TR=8p)
.model QBUF NPN(IS=1e-16 BF=200 VAF=100 IKF=100m RB=3 RC=.5 RE=.15 CJE=3f CJC=1.5f TF=.45p TR=5p)

*==============================================================================
* GLOBAL BIAS
*==============================================================================
* ~1.00 mA reference, Vbe ~ 0.76 V (area 4)
Rbref       vcc     bref        2.54k
Qbref       bref    bref    0   QN 4

* Common-mode refs
Rcm1        vcc     vcm         0.50k
Rcm2        vcm     0           0.60k
Ccm         vcm     0           5p
* vcm = 3.3*1.8/3.3 = 1.80 V

Rtref1      vcc     vtref       9.5k
Rtref2      vtref   0           2.90k
Ctref       vtref   0           5p
* vtref ~ 0.759 V

Rpkcm1      vcc     vpkcm       1.5k
Rpkcm2      vpkcm   0           1.5k

* Shared NPN bias rails (diode copies of bref)
Qnb1        nbias   nbias   0   QN 4
Rnb1        vcc     nbias       1.27k
Qnb2        nbias2  nbias2  0   QN 4
Rnb2        vcc     nbias2      1.0k
Qnb3        nbias3  nbias3  0   QN 4
Rnb3        vcc     nbias3      0.9k

*==============================================================================
* TIA LOCAL RAIL REGULATOR  (PNP series pass to ~2.55 V, with startup)
*==============================================================================
Qpass       vcc_tia rdrive  vcc     QP 80
* Default partially ON (startup): divider sets rdrive ~ 2.45 V
Rpu         vcc     rdrive      2.5k
Rpd         rdrive  0           5.5k
* Sense
Rrg_s1      vcc_tia rgs         2.55k
Rrg_s2      rgs     0           2.55k
* Reference ~1.275 V from resistive divider
Rrr1        vcc     vtreg_s     4.0k
Rrr2        vtreg_s 0           3.2k
* Error amp diff pair
Qea         cea     rgs     te    QN 6
Qeb         ceb     vtreg_s te    QN 6
Qet         te      nbias   0     QN 4
* Resistive loads
Rla         vcc     cea         12k
Rlb         vcc     ceb         12k
* When rgs > vtreg_s (rail high): cea down, ceb up
* Second stage: raise rdrive when rail high (ceb high -> EF -> push rdrive up via resistor)
Qef         vcc     ceb     efd   QN 4
Ref         efd     0           8k
Rfb         efd     rdrive      1.5k
Ccomp       ceb     0           2p
Crail       vcc_tia 0           20p
Rrailk      vcc_tia 0           4k





*==============================================================================
* INPUT TIA HALVES (CE + collector load + EF feedback + Rf)
*==============================================================================
* Positive
Qtiap       ctp     inp     etp     QN 17
Retp        etp     0           1.5
Rctp        vcc_tia ctp         280
Lctp        ctp     ctp2        0.10n
Cctp        ctp2    0           4f
Qtfap       vcc_tia ctp2    tia_p   QN 8
Qtfsp       tia_p   nbias   0       QN 5
Rfp         tia_p   inp         355
Cfp         tia_p   inp         2f

* Negative
Qtian       ctn     inn     etn     QN 17
Retn        etn     0           1.5
Rctn        vcc_tia ctn         280
Lctn        ctn     ctn2        0.10n
Cctn        ctn2    0           4f
Qtfan       vcc_tia ctn2    tia_n   QN 8
Qtfsn       tia_n   nbias   0       QN 5
Rfn         tia_n   inn         355
Cfn         tia_n   inn         2f

* Weak DC reference bleed (helps OP, high Z)
Rbinp       inp     vtref       100k
Rbinn       inn     vtref       100k

*==============================================================================
* DC OVERLOAD CANCELLATION
* Sense DC drop across feedback Rf (inp - tia). MOS sinks absorb DC photo current.
*==============================================================================
* Filtered sense of (inp - tia_p)
Risp1       inp     isp1        20k
Cisp1       isp1    0           50p
Risp2       isp1    isp         20k
Cisp2       isp     0           50p
Ritp1       tia_p   itp1        20k
Citp1       itp1    0           50p
Ritp2       itp1    itp         20k
Citp2       itp     0           50p

Risn1       inn     isn1        20k
Cisn1       isn1    0           50p
Risn2       isn1    isn         20k
Cisn2       isn     0           50p
Ritn1       tia_n   itn1        20k
Citn1       itn1    0           50p
Ritn2       itn1    itn         20k
Citn2       itn     0           50p

* Diff amp: if isp > itp (current into inp), raise cancel_gp
Qcp1        ccp1    itp     cte_p   QN 10
Qcp2        ccp2    isp     cte_p   QN 10
Qctp        cte_p   nbias   0       QN 10
Rcp1        vcc     ccp1        5.5k
Rcp2        vcc     ccp2        5.5k
* When isp>itp, ccp2 low, ccp1 high
* Drive gate from inverted ccp2 via PNP pull-up / NPN
Qpnp_cp     ccp_x   ccp2    vcc     QP 12
Rcp_x       ccp_x   0           15k
* ccp_x high when ccp2 low (overload)
* Direct resistive drive from ccp_x plus EF boost
Rcp_dr      ccp_x   cancel_gp   1.5k
Qef_cp      vcc     ccp_x   cancel_gp QN 12
Rgp         cancel_gp 0         25k
Cgp         cancel_gp 0         150p
* Deadband bleed so tiny offsets don't turn on
Rdb_p       ccp1    ccp2        60k

* Negative side
Qcn1        ccn1    itn     cte_n   QN 10
Qcn2        ccn2    isn     cte_n   QN 10
Qctn        cte_n   nbias   0       QN 10
Rcn1        vcc     ccn1        5.5k
Rcn2        vcc     ccn2        5.5k
Qpnp_cn     ccn_x   ccn2    vcc     QP 12
Rcn_x       ccn_x   0           15k
Rcn_dr      ccn_x   cancel_gn   1.5k
Qef_cn      vcc     ccn_x   cancel_gn QN 12
Rgn         cancel_gn 0         25k
Cgn         cancel_gn 0         150p
Rdb_n       ccn1    ccn2        60k

M_CANCEL_P  inp     cancel_gp 0 0  NMOS W=8000u L=0.16u
M_CANCEL_N  inn     cancel_gn 0 0  NMOS W=8000u L=0.16u




*==============================================================================
* INTERFACE 1: AC-couple + emitter followers -> v1p/v1n
*==============================================================================
Cif1p       tia_p   i1bp        80p
Cif1n       tia_n   i1bn        80p
Ri1bp       i1bp    vcm         5k
Ri1bn       i1bn    vcm         5k
Qi1p        vcc     i1bp    v1p     QN 8
Qi1n        vcc     i1bn    v1n     QN 8
Qi1sp       v1p     nbias   0       QN 5
Qi1sn       v1n     nbias   0       QN 5
Cv1p        v1p     0           2f
Cv1n        v1n     0           2f

*==============================================================================
* VGA1
*==============================================================================
* Degenerated input pair
Qv1ip       v1cp    v1p     v1ep    QN 8
Qv1in       v1cn    v1n     v1en    QN 8
Rv1ee       v1ep    v1en        80
Qv1t1       v1ep    nbias2  0       QN 8
Qv1t2       v1en    nbias2  0       QN 8

* Steering quad controlled by vc1/vc1b
Qv1s1       c1p     vc1     v1cp    QN 6
Qv1s2       dmp1    vc1b    v1cp    QN 6
Qv1s3       c1n     vc1     v1cn    QN 6
Qv1s4       dmp1    vc1b    v1cn    QN 6
Rdmp1       vcc     dmp1        100

* Loads + peaking
Rv1lp       vcc     c1p         185
Rv1ln       vcc     c1n         185
Lv1lp       c1p     c1p2        0.08n
Lv1ln       c1n     c1n2        0.08n
Cv1lp       c1p2    0           4f
Cv1ln       c1n2    0           4f

* Output followers
Qv1fp       vcc     c1p2    vga1p   QN 6
Qv1fn       vcc     c1n2    vga1n   QN 6
Qv1sp       vga1p   nbias   0       QN 4
Qv1sn       vga1n   nbias   0       QN 4

*==============================================================================
* INTERFACE 2
*==============================================================================
Cif2p       vga1p   i2bp        80p
Cif2n       vga1n   i2bn        80p
Ri2bp       i2bp    vcm         5k
Ri2bn       i2bn    vcm         5k
Qi2p        vcc     i2bp    v2p     QN 8
Qi2n        vcc     i2bn    v2n     QN 8
Qi2sp       v2p     nbias   0       QN 5
Qi2sn       v2n     nbias   0       QN 5
Cv2p        v2p     0           2f
Cv2n        v2n     0           2f

*==============================================================================
* VGA2 (with emitter-degeneration HF compensation)
*==============================================================================
Qv2ip       v2cp    v2p     v2ep    QN 10
Qv2in       v2cn    v2n     v2en    QN 10
Rv2ee       v2ep    v2en        60
Cv2ee       v2ep    v2en        120f
Qv2t1       v2ep    nbias2  0       QN 10
Qv2t2       v2en    nbias2  0       QN 10

Qv2s1       c2p     vc2     v2cp    QN 8
Qv2s2       dmp2    vc2b    v2cp    QN 8
Qv2s3       c2n     vc2     v2cn    QN 8
Qv2s4       dmp2    vc2b    v2cn    QN 8
Rdmp2       vcc     dmp2        80

Rv2lp       vcc     c2p         175
Rv2ln       vcc     c2n         175
Lv2lp       c2p     c2p2        0.08n
Lv2ln       c2n     c2n2        0.08n
Cv2lp       c2p2    0           4f
Cv2ln       c2n2    0           4f

Qv2fp       vcc     c2p2    vga2p   QN 8
Qv2fn       vcc     c2n2    vga2n   QN 8
Qv2sp       vga2p   nbias   0       QN 6
Qv2sn       vga2n   nbias   0       QN 6

*==============================================================================
* BUFFER INPUT COUPLING -> bufinp/bufinn
*==============================================================================
Cbp         vga2p   bufinp      80p
Cbn         vga2n   bufinn      80p
Rbbp        bufinp  vcm         4k
Rbbn        bufinn  vcm         4k

*==============================================================================
* OUTPUT BUFFER (degenerated pair, resistive loads, 100 ohm, pole)
*==============================================================================
Qbip        outp    bufinp  bep     QBUF 20
Qbin        outn    bufinn  ben     QBUF 20
Rbee        bep     ben         26
Qbt1        bep     nbias3  0       QBUF 12
Qbt2        ben     nbias3  0       QBUF 12

* Collector loads: set CM ~ 2.706 V
* Vdrop = 3.3-2.706 = 0.594 V; with ~6.3 mA per side => R ~ 94 ohm
Rblp        vcc     outp        70
Rbln        vcc     outn        70

* 100 ohm differential load
Rldiff      outp    outn        100

* Passive pole to finalp/finaln
Rpp         outp    fin_a       14
Rpn         outn    fin_b       14
Lpp         fin_a   finalp      0.04n
Lpn         fin_b   finaln      0.04n
Cpp         finalp  0           9f
Cpn         finaln  0           9f
Cpd         finalp  finaln      14f

*==============================================================================
* GAIN CONTROL GENERATOR: gc -> (vc1,vc1b), (vc2,vc2b)
*==============================================================================
* Center reference ~1.325 V (mid of MGC range)
Rgcr1       vcc     gcref       2.4k
Rgcr2       gcref   0           1.2k

* Degenerated pair
Qgcp        gcxp    gc      gcep    QN 4
Qgcn        gcxn    gcref   gcen    QN 4
Rgcee       gcep    gcen        700
Qgct1       gcep    nbias   0       QN 2
Qgct2       gcen    nbias   0       QN 2
Rgclp       vcc     gcxp        1.5k
Rgcln       vcc     gcxn        1.5k

* CM shift node ~ 2.0 V for steering bases
Rvc_cm1     vcc     vcm_vc      1.3k
Rvc_cm2     vcm_vc  0           2.0k

* VGA1 controls: heavy attenuation => |vc1-vc1b|~8 mV at gc=1.4
* Level shift collectors via EF
Qv1cap      vcc     gcxn    vc1r    QN 3
Qv1can      vcc     gcxp    vc1s    QN 3
Rv1cs1      vc1r    0           6k
Rv1cs2      vc1s    0           6k
* Heavy attenuate + CM restore for vc1 (~8 mV)
Rv11a       vc1r    vc1         9.5k
Rv11b       vc1s    vc1b        9.5k
Rv12a       vcm_vc  vc1         95
Rv12b       vcm_vc  vc1b        95
Cv1c        vc1     vc1b        0.4p

* VGA2 less attenuation (~33 mV)
Qv2cap      vcc     gcxn    vc2r    QN 3
Qv2can      vcc     gcxp    vc2s    QN 3
Rv2cs1      vc2r    0           6k
Rv2cs2      vc2s    0           6k
Rv21a       vc2r    vc2         2.8k
Rv21b       vc2s    vc2b        2.8k
Rv22a       vcm_vc  vc2         125
Rv22b       vcm_vc  vc2b        125
Cv2c        vc2     vc2b        0.4p

*==============================================================================
* MODE SELECTOR (mc=0 -> gc=mgc; else gc=agc)
*==============================================================================
* Inverter
Mminv_p     mcb     mc      vcc vcc PMOS W=30u L=0.5u
Mminv_n     mcb     mc      0   0   NMOS W=15u L=0.5u

* TG for mgc (ON when mc=0, mcb=3.3)
Mtg1n       mgc     mcb     gc  0   NMOS W=40u L=0.5u
Mtg1p       mgc     mc      gc  vcc PMOS W=80u L=0.5u

* TG for agc (ON when mc=3.3, mcb=0)
Mtg2n       agc     mc      gc  0   NMOS W=40u L=0.5u
Mtg2p       agc     mcb     gc  vcc PMOS W=80u L=0.5u

Cgc         gc      0           1p

*==============================================================================
* PEAK DETECTOR — 8-BJT Gilbert + followers
*==============================================================================
* High-Z tap
Rtp1        finalp  pkdinp      3k
Rtp2        finaln  pkdinn      3k
Ctp1        finalp  pkdinp      25f
Ctp2        finaln  pkdinn      25f
Rtpb1       pkdinp  vpkcm       10k
Rtpb2       pkdinn  vpkcm       10k

* Followers (2 BJTs)
Qpf1        vcc     pkdinp  pke1    QN 4
Qpf2        vcc     pkdinn  pke2    QN 4
Qpfs1       pke1    nbias   0       QN 3
Qpfs2       pke2    nbias   0       QN 3

* Lower degenerated pair (2 BJTs)
Qpl1        pq1     pke1    ple1    QN 4
Qpl2        pq2     pke2    ple2    QN 4
Rple        ple1    ple2        220
Qplt1       ple1    nbias2  0       QN 3
Qplt2       ple2    nbias2  0       QN 3

* Switching core (4 BJTs)
Qpg1        detp    pke1    pq1     QN 3
Qpg2        detn    pke2    pq1     QN 3
Qpg3        detp    pke2    pq2     QN 3
Qpg4        detn    pke1    pq2     QN 3

Rpldp       vcc     detp        900
Rpldn       vcc     detn        900

* Filtered differential -> pkd (single-ended average of |diff|)
Rdf1        detp    dfa         25k
Rdf2        detn    dfb         25k
Cdf1        dfa     0           4p
Cdf2        dfb     0           4p
Qdf1        vcc     dfa     dfe1    QN 2
Qdf2        vcc     dfb     dfe2    QN 2
Qdfs1       dfe1    nbias   0       QN 2
Qdfs2       dfe2    nbias   0       QN 2
* pkd sits at midpoint; differential detector voltage is detp-detn
* Also expose pkd as buffered common-mode-removed sense:
Rpk1        dfe1    pkd         8k
Rpk2        dfe2    pkd         8k
Rpk3        pkd     0           12k
Cpk         pkd     0           3p

*==============================================================================
* AGC PATH (CMOS transistor op-amps, no macromodels)
*==============================================================================
* Filter detector
Raf1        detp    afp         40k
Raf2        detn    afn         40k
Caf1        afp     0           6p
Caf2        afn     0           6p

* Followers
Qaf1        vcc     afp     afe1    QN 2
Qaf2        vcc     afn     afe2    QN 2
Qafs1       afe1    nbias   0       QN 2
Qafs2       afe2    nbias   0       QN 2

* Bias for CMOS amps
Man_b       anb     anb     0   0   NMOS W=10u L=2u
Ranb        vcc     anb         120k
Map_b       apb     anb     vcc vcc PMOS W=25u L=2u

*--- Error OTA1: differential (afe1-afe2) gain stage ~14 V/V ---
* Degenerated for controlled gain
Ma1p1       a1c1    afe1    a1t   vcc PMOS W=80u L=1u
Ma1p2       a1c2    afe2    a1t   vcc PMOS W=80u L=1u
Ma1ts       a1t     apb     vcc vcc PMOS W=40u L=1u
Ma1n1       a1c1    a1c1    0   0   NMOS W=12u L=2u
Ma1n2       a1c2    a1c1    0   0   NMOS W=12u L=2u
Ra1d1       a1c1    a1c2        20k
Ca1         a1c2    0           0.3p
* Source degeneration for gain set
* Second stage buffer
Ma1g        a1o     a1c2    vcc vcc PMOS W=40u L=1u
Ma1gs       a1o     anb     0   0   NMOS W=15u L=1u
Ca1c        a1o     a1c2        0.8p

*--- Control amp: compare a1o-related level / pkd to oa, integrate to agc ---
Ma2p1       a2c1    pkd     a2t   vcc PMOS W=50u L=1u
Ma2p2       a2c2    oa      a2t   vcc PMOS W=50u L=1u
Ma2ts       a2t     apb     vcc vcc PMOS W=30u L=1u
Ma2n1       a2c1    a2c1    0   0   NMOS W=20u L=1u
Ma2n2       a2c2    a2c1    0   0   NMOS W=20u L=1u
Ma2g        agc     a2c2    vcc vcc PMOS W=100u L=0.7u
Ma2gs       agc     anb     0   0   NMOS W=25u L=1u
Ca2c        agc     a2c2        8p
Cagc        agc     0           30p
* Soft bounds near mid-supply for startup
Rag1        vcc     agc         250k
Rag2        agc     0           180k

* Series injection of differential amp into control (boost AGC gain)
Ra1inj      a1o     a2c2        100k

*==============================================================================
* QUIESCENT CURRENT PADS (~95 mA total target)
*==============================================================================
Qpad1       pad1    bref    0   QN 12
Rpad1       vcc     pad1        42
Qpad2       pad2    bref    0   QN 12
Rpad2       vcc     pad2        42
Qpad3       pad3    bref    0   QN 10
Rpad3       vcc     pad3        48

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.4
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 0
I_TB_N inn 0 DC 0
V_TB_DETP detp 0 2.863301
V_TB_DETN detn 0 2.813301

.control
op
print v(agc)
quit
.endc
.end
